US09301951B2
3-((3-((4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzamido)pyridin-2-yl)-phenyl)carbamoyl)benzyl)thio)propanoic acid
Into a 50-mL round bottom flask, was placed a solution of methyl 3-(3-((4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzamido)pyridin-2-yl)phenyl)carbamoyl)benzylthio)propanoate (100 mg, 0.15 mmol, 1.00 equiv) and lithium hydroxide hydrate (62.0 mg, 1.48 mmol, 10.00 equiv) in tetrahydrofuran/water (1:1) (10/10 mL). The resulting solution was stirred for 2 h at room temperature. The resulting mixture was combined with the solution of the previous batch and then concentrated under vacuum. The residual solution was adjusted to pH 5-6 with 1 N acetic acid. The resulting solution was extracted with 2×30 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate. The solvent was removed under vacuum. The crude product (140 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The fractions were collected and lyophilized to yield 100 mg (58%) of product as an off-white solid. 1H-NMR (300 MHz, DMSO-d6, ppm): δ 11.29 (br, 1H), 8.79 (d, J=6.0 Hz, 1H), 8.42 (s, 1H), 8.31-8.27 (m, 2H), 8.07-7.97 (m, 2H), 7.87-7.74 (m, 3H), 7.53-7.44 (m, 3H), 7.38-7.37 (m, 1H), 3.83 (s, 2H), 3.35 (s, 4H), 2.56 (t, J=6.3 Hz, 2H), 1.74-1.61 (m, 6H). MS (ES, m/z): 663 [M+H]+.

reactant | methyl 3-(3-((4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzamido)pyridin-2-yl)phenyl)carbamoyl)benzylthio)propanoate | 0.15 mmol, 100 mg, 1.00 equiv | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)OC)C=CC1)C1=NC=CC(=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C36H35F3N4O4S
reactant | lithium hydroxide hydrate | 1.48 mmol, 62.0 mg, 10.00 equiv | O.[OH-].[Li+]
solvent | tetrahydrofuran water | 10 mL | O1CCCC1.O
product | 3-((3-((4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzamido)pyridin-2-yl)-phenyl)carbamoyl)benzyl)thio)propanoic acid | 100 mg, 58% | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1)C1=NC=CC(=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C35H33F3N4O4S
